US08633173B2
N(8)-(3-Methoxy-benzyl)-N(2)-(6-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine (99.9 mg, 0.346 mmol) and 6-methyl-pyridin-3-ylamine (41.91 mg, 0.3875 mmol) in a manner analogous to Example 2d. Product isolated as a red foam (8.55 mg, 7%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.48 (s, 1H), 8.74 (s, 1H), 8.11 (d, J=8.2 Hz, 1H), 7.96 (d, J=6.7 Hz, 1H), 7.23 (t, J=15.8, 7.7 Hz, 1H), 7.15 (d, J=8.6 Hz, 1H), 6.96 (s, 2H), 6.82-6.70 (m, 2H), 6.57 (m, 1H), 6.31 (d, J=7.8 Hz, 1H), 4.48 (d, J=6.0 Hz, 2H), 3.71 (s, 3H), 2.40 (s, 3H). MS=361 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine | 0.346 mmol, 99.9 mg | ClC1=NN2C(C(=CC=C2)NCC2=CC(=CC=C2)OC)=N1 | C14H13ClN4O
reactant | 6-methyl-pyridin-3-ylamine | 0.3875 mmol, 41.91 mg | CC1=CC=C(C=N1)N | C6H8N2
product | N(8)-(3-Methoxy-benzyl)-N(2)-(6-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC=1C=C(CNC=2C=3N(C=CC2)N=C(N3)NC=3C=NC(=CC3)C)C=CC1 | C20H20N6O
